US04363917
1.47 g (5 mmols) of 3,5-dinitrophthalic acid N-n-butylimide, 1.24 g (6 mmols) of disodium thiosalicylate and 15 ml of tetrahydrofuran are stirred under reflux for 5 hours. The mixture is cooled and taken up in 2 N HCl solution/tetrahydrofuran/toluene. The organic phase is dried over sodium sulfate and evaporated. Recrystallisation from toluene gives 1.80 g (90% of theory) of 3-(2-carboxyphenylthio)-5-nitrophthalic acid N-n-butylimide; melting point: 192°-6° C.

reactant | 3,5-dinitrophthalic acid N-n-butylimide | 5 mmols, 1.47 g | C(CCC)N=C(C=1C(C(=O)O)=C(C=C(C1)[N+](=O)[O-])[N+](=O)[O-])O | C12H13N3O7
reactant | disodium thiosalicylate | 6 mmols, 1.24 g | C(C=1C(S)=CC=CC1)(=O)[O-].[Na+].[Na+].C(C=1C(S)=CC=CC1)(=O)[O-]
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran toluene | O1CCCC1.C1(=CC=CC=C1)C
solvent | HCl | 2 N | Cl | ClH
product | 3-(2-carboxyphenylthio)-5-nitrophthalic acid N-n-butylimide | 1.80 g, 90% | C(CCC)N=C(C=1C(C(=O)O)=C(C=C(C1)[N+](=O)[O-])SC1=C(C=CC=C1)C(=O)O)O | C19H18N2O7S
